US07342115B2
A mixture of 1-(2-bromo-6-fluoro-phenyl)-2-methyl-propan-1-one (1.1 g, 4.5 mmol) and anhydrous hydrazine (0.17 mL, 5.4 mmol) in ethylene glycol (10 mL) is heated for 16 hours at 160° C. Water is added and the mixture is extracted with CH2Cl2. The combined extracts are dried (MgSO4) and concentrated in vacuo. The residue is purified by flash chromatography to yield 4-bromo-3-isopropyl-1H-indazole. 1H NMR (CDCl3) 10.1 (br s, 1H), 7.38 (d, 1H), 7.32 (d, 1H), 7.17 (t, 1H), 3.99 (m, 1H), 1.43 (d, 6H).

reactant | 1-(2-bromo-6-fluoro-phenyl)-2-methyl-propan-1-one | 4.5 mmol, 1.1 g | BrC1=C(C(=CC=C1)F)C(C(C)C)=O | C10H10BrFO
reactant | hydrazine | 5.4 mmol, 0.17 mL | NN | H4N2
reactant | Water | O | H2O
solvent | ethylene glycol | 10 mL | C(CO)O | C2H6O2
product | 4-bromo-3-isopropyl-1H-indazole | BrC1=C2C(=NNC2=CC=C1)C(C)C | C10H11BrN2
